US20010027247A1
(S)-3-Cyclohexylbutyroyl Chloride
(S)-3-phenylbutyric acid was hydrogenated using Rh/C in MeOH at 60 psi and 60° C. for 3.2 hours. The reduced product was then converted to the title acid chloride by treating with 1 eq of oxalyl chloride, and a catalytic amount of DMF, in toluene for 90 minutes, followed by evaporation of the volatile materials.

reactant | (S)-3-phenylbutyric acid | C1(=CC=CC=C1)[C@H](CC(=O)O)C | C10H12O2
reactant | oxalyl chloride | 1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Rh/C | [Rh] | Rh
product | (S)-3-Cyclohexylbutyroyl Chloride | C1(CCCCC1)[C@H](CC(=O)Cl)C | C10H17ClO
